US06043242
20. 4-(5-{3-Methyl-4-[3-(3-nitroimidazo[1,2-b]pyridazin-6-ylsulfanyl)propylsulfanyl]-pyridin-2-yl-methylsulfanyl)tetrazol-1-yl)phenol
0.61 g (1.5 mmol) of 6-[3-(2-chloromethyl-3-methylpyridin-4-ylsulfanyl)propylsulfanyl]-3-nitroimidazo[1,2-b]pyridazine and 0.30 g (1.5 mmol) of 4-(5-mercaptotetrazol-1-yl)phenol in 30 ml of isopropanol are heated under reflux for 2 h under a nitrogen atmosphere. The mixture is then concentrated. The residue is taken up in 30 ml of water, adjusted to pH 9 using 2N sodium hydroxide solution and extracted with 4×30 ml of dichloromethane. The organic extracts are washed with water, dried over magnesium sulfate and concentrated. The residue is taken up in 200 ml of hot acetonitrile, clarified with active carbon, filtered, concentrated to a volume of 50 ml and cooled to 0° C. The precipitate is filtered off, washed with acetonitrile and dried. 0.64 g (75%) of the title compound is isolated as a pale beige solid. M.p. 92° C. (dec.).

reactant | 6-[3-(2-chloromethyl-3-methylpyridin-4-ylsulfanyl)propylsulfanyl]-3-nitroimidazo[1,2-b]pyridazine | 1.5 mmol, 0.61 g | ClCC1=NC=CC(=C1C)SCCCSC=1C=CC=2N(N1)C(=CN2)[N+](=O)[O-] | C16H16ClN5O2S2
reactant | 4-(5-mercaptotetrazol-1-yl)phenol | 1.5 mmol, 0.30 g | SC1=NN=NN1C1=CC=C(C=C1)O | C7H6N4OS
reactant | isopropanol | 30 ml | C(C)(C)O | C3H8O
product | 4-(5-{3-Methyl-4-[3-(3-nitroimidazo[1,2-b]pyridazin-6-ylsulfanyl)propylsulfanyl]-pyridin-2-yl-methylsulfanyl)tetrazol-1-yl)phenol | 0.64 g, 75% | CC=1C(=NC=CC1SCCCSC=1C=CC=2N(N1)C(=CN2)[N+](=O)[O-])S(C2=NN=NN2C2=CC=C(C=C2)O)C | C23H23N9O3S3
